US08212045B2
A flask was charged with (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (2.32 g, 7.79 mmol), sodium thiocyanate (0.557 g, 6.87 mmol), pyridine (1.67 ml, 20.6 mmol), and acetonitrile (100 mL). The reaction was heated to 40° C. for 30 minutes, then 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-amine (1.5 g, 4.58 mmol) was added and the reaction was heated to 70° C. overnight. Water was added and the reaction was extracted with ethyl acetate and dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified over silica gel (50-100% ethyl acetate in hexanes) to afford (S)-N-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (1.38 g, 2.50 mmol, 54.6% yield) as yellow solid.

reactant | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 7.79 mmol, 2.32 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | sodium thiocyanate | 6.87 mmol, 0.557 g | [S-]C#N.[Na+]
reactant | pyridine | 20.6 mmol, 1.67 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-amine | 4.58 mmol, 1.5 g | N1=C(C=CC=C1)SC=1C=C(C(=NC1)N)OC=1C(=NN(C1C)C)C | C16H17N5OS
solvent | Water | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-N-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 2.50 mmol, 1.38 g, 54.6% yield | N1=C(C=CC=C1)SC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NN(C2C)C)C | C26H29N7O3S2
